US04849424
In 3 ml of anhydrous methanol, 23 mg of sodium metal was dissolved, and to the resulting solution, 180 mg of 6-chloro-4-(1-pyrazolyl)pyrimidine in 2 ml of anhydrous methanol was added dropwise with stirring at room temperature in a stream of nitrogen overnight. The solvent was distilled off under reduced pressure, and the residue was extracted with 20 ml of methylene chloride. The organic layer was washed with 5 ml of saturated sodium chloride solution, and dried over anhydrous sodium sulfate. The solvent was distilled away, and a residue was purified by a silica gel column chromatography using chloroform to give an amorphous product. The product was recrystallized from n-hexane to provide 132 mg of the plate crystal 6-methoxy-4-(1-pyrazolyl)pyrimidine having a melting point of 108.5°-109° C.

reactant | sodium | 23 mg | [Na] | Na
reactant | 6-chloro-4-(1-pyrazolyl)pyrimidine | 180 mg | ClC1=CC(=NC=N1)N1N=CC=C1 | C7H5ClN4
reactant | methanol | 3 ml | CO | CH4O
reactant | methanol | 2 ml | CO | CH4O
product | 6-methoxy-4-(1-pyrazolyl)pyrimidine | COC1=CC(=NC=N1)N1N=CC=C1 | C8H8N4O
